US06797725B2
A reaction mixture of of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1-(imidazol-1-ylcarbonyl)-1,3-dihydro-indol-2-one (165 mg, 0.5 mmol), cinnamic acid (85 mg, 0.5 mmol), and 2 drops of triethylamine in 3 mL of THF was stirred at 60° C. for 5 h and room temperature overnight and filtered. The solid was then washed with ethyl acetate and 1 N aqueous hydrogen chloride solution. The filtrate was concentrated and the residue was partitioned between ethyl acetate and water-acetic acid. The organic layer was washed with diluted sodium hydroxide solution, dried over magnesium sulfate, and concentrated. The resultant residue was suspended in warm ethyl acetate and filtered. The combined solid was then dried in a vacuum oven overnight to afford 35 mg (16%) of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 4-((E)-2-carboxy-vinyl)-phenyl ester. 1H NMR (400 MHz, DMSO-d6) δ 12.55 (s, 1H, NH-1′), 12.41 (s, br, 1H, COOH), 7.91-7.94 (m, 1H), 7.82-7.85 (m, 3H), 7.71 (s, 1H, H-vinyl), 7.65 (d, J=6.02 Hz, 1H), 7.44 (d, J=8.99 Hz, 1H), 7.24-7.26 (m, 2H), 6.57 (d, J=6.02 Hz, 1H), 6.15 (d, J=2.35 Hz, 1H, H-4′), 2.39 (s, 3H, CH3), and 2.37 (s, 3H, CH3).

reactant | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1-(imidazol-1-ylcarbonyl)-1,3-dihydro-indol-2-one | 0.5 mmol, 165 mg | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(=O)N1C=NC=C1)=O | C19H16N4O2
reactant | cinnamic acid | 0.5 mmol, 85 mg | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
product | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 4-((E)-2-carboxy-vinyl)-phenyl ester | 35 mg, 16% | C(=O)(O)/C=C/C1=CC=C(C=C1)OC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O | C25H20N2O5
